US07091222B2
4-(1-Cyclopropyl-2,5-dimethyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine
The title compound, MS: m/e=252.1 (M+H+), was prepared in accordance with the general method of example A, step 1 from 1-cyclopropyl-4-ethynyl-2,5-dimethyl-1H-imidazole and 4-iodo-2-methyl-pyridine.

reactant | 1-cyclopropyl-4-ethynyl-2,5-dimethyl-1H-imidazole | C1(CC1)N1C(=NC(=C1C)C#C)C | C10H12N2
reactant | 4-iodo-2-methyl-pyridine | IC1=CC(=NC=C1)C | C6H6IN
product | 4-(1-Cyclopropyl-2,5-dimethyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine | C1(CC1)N1C(=NC(=C1C)C#CC1=CC(=NC=C1)C)C | C16H17N3
